US09382228B2
Carbonyldiimidazole (42.6 g, 263 mmol) was slowly added to a solution of 3-oxo-cyclopropane carboxylic acid (25.0 g, 219 mmol) in DCM (500 mL), stirred at RT for 2 h, treated with benzyl alcohol (24.17 g, 223 mmol) and stirred at RT for 16 h. The mixture was diluted with water, extracted with DCM (2×) and the combined organics were washed with brine, dried over Na2SO4, concentrated to dryness and purified by silica gel chromatography (EtOAc/Hex) to afford benzyl 3-oxocyclobutanecarboxylate (29.5 g, 66%) as a colorless syrup. 1H NMR (400 MHz, DMSO-d6): δ 7.38-7.35 (m, 5H); 5.14 (s, 2H); 3.62 (m, 5H); MS (ESI) m/z: 227.1 (M+Na+).

reactant | Carbonyldiimidazole | 263 mmol, 42.6 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 3-oxo-cyclopropane carboxylic acid | 219 mmol, 25.0 g | O=C1CC1C(=O)O | C4H4O3
reactant | benzyl alcohol | 223 mmol, 24.17 g | C(C1=CC=CC=C1)O | C7H8O
solvent | DCM | 500 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | benzyl 3-oxocyclobutanecarboxylate | 29.5 g, 66% | O=C1CC(C1)C(=O)OCC1=CC=CC=C1 | C12H12O3
